US06103903
A solution of 7-chloro-5-(4-fluorophenyl)thieno[3,2-b]pyridine (60 mg, 0.23 mmole) in 4-aminomethylpiperidine (1 mL) is heated at 160°C. oil bath under N2 for 4 hours. The reaction mixture is cooled to room temperature and purified on preperative tlc plate to give N-(4-piperidinylmethyl)-5-(4-fluorophenyl)thieno[3,2-b]pyridin-7-amine (15 mg, 19% yield) as a colorless oil. This material is dissolved in 1 mL ethyl acetate. Ethyl acetate saturated with HCl (2 mL) is added and then concentrated to afford N-(4-piperidinylmethyl)-5-(4-fluorophenyl)thieno[3,2-b]pyridin-7-amine dihydrochloride (compound 1) as a greasy oil. The salt is triturated with ether, collected by filtration, washed with ether and dried in vacuo, m.p. >260° C. (dec).

reactant | 7-chloro-5-(4-fluorophenyl)thieno[3,2-b]pyridine | 0.23 mmole, 60 mg | ClC1=C2C(=NC(=C1)C1=CC=C(C=C1)F)C=CS2 | C13H7ClFNS
reactant | 4-aminomethylpiperidine | 1 mL | NCC1CCNCC1 | C6H14N2
product | N-(4-piperidinylmethyl)-5-(4-fluorophenyl)thieno[3,2-b]pyridin-7-amine | 15 mg, 19% yield | N1CCC(CC1)CNC1=C2C(=NC(=C1)C1=CC=C(C=C1)F)C=CS2 | C19H20FN3S
